US05703052
(5α,25R)-spirost-1-en-3-one
A mixture of lithium bromide (0.700 g, 8.06 mmol), lithium carbonate (1.20 g, 16.24 mmol) and anhydrous N,N-dimethylformamide (30 mL) were heated under nitrogen atmosphere to 95° C. To this mixture, (2α,5α,25R)-2-bromospirostan-3-one (4.00 g, 8.11 mmol) was added. The reaction mixture was stirred at 130° C. for 3 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, washed with water (3×), brine (1×), dried (sodium sulfate), filtered and concentrated in vacuo to afford 3.31 g, (98%) of the title compound.

reactant | lithium bromide | 8.06 mmol, 0.700 g | [Br-].[Li+]
reactant | lithium carbonate | 16.24 mmol, 1.20 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | (2α,5α,25R)-2-bromospirostan-3-one | 8.11 mmol, 4.00 g | Br[C@H]1C(C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC[C@@H]3[C@]2(C1)C)C)=O | C27H41BrO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5α,25R)-spirost-1-en-3-one | 98% | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5CC(C=C[C@]5(C)[C@H]4CC[C@]23C)=O)O[C@]12CC[C@@H](C)CO2 | C27H40O3
